US05232940
A solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole (4.0 g) in dry tetrahydrofuran (20 ml) was treated with tert-butyl nitrite (5.76 g) at room temperature. The mixture was then heated under reflux for 3 hours and evaporated in vacuo to give a yellow solid. Purification by chromatography eluting with petroleum ether/dichloromethane (2:1) gave 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-trifluoromethylthiopyrazole (3.12 g), m.p. 126.5°-128° C., in the form of a white solid. By proceeding in a similar manner but replacing the 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole by the following phenylpyrazoles, there was obtained:

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole | 4.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | tert-butyl nitrite | 5.76 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-trifluoromethylthiopyrazole | 3.12 g | C(#N)C1=NN(C=C1SC(F)(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H3Cl2F6N3S
